US07432287B2
Preparation of 3-(6-ethanesulfonylpyridin-3-yloxy)-5-(2-hydroxy-1-methyl-ethoxy)-N-(isoxazol-3-yl)benzamide
The compound of Production Example 132 was obtained as a colorless amorphous substance using 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester, 5-bromo-2-ethanesulfonylpyridine, (2R)-1-(tert-butyldimethylsiloxy)-2-hydroxypropane and 3-amino-isoxazole, by the same method as in Production Example 117, a corresponding method, or a combination thereof with an ordinary method.

reactant | 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester | COC(C1=CC(=CC(=C1)O)OCOC)=O | C10H12O5
reactant | 5-bromo-2-ethanesulfonylpyridine | BrC=1C=CC(=NC1)S(=O)(=O)CC | C7H8BrNO2S
reactant | (2R)-1-(tert-butyldimethylsiloxy)-2-hydroxypropane | O([Si](C)(C)C(C)(C)C)C[C@@H](C)O | C9H22O2Si
reactant | 3-amino-isoxazole | NC1=NOC=C1 | C3H4N2O
product | 3-(6-ethanesulfonylpyridin-3-yloxy)-5-(2-hydroxy-1-methyl-ethoxy)-N-(isoxazol-3-yl)benzamide | C(C)S(=O)(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)NC2=NOC=C2)C=C(C1)OC(CO)C | C20H21N3O7S
